US07960394B2
2-[4-(1-Cyclobutyl-4-piperidinyloxy)phenyl]-3-methylpyrido[2,3-d]-pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 2-aminonicotinic acid, methylamine and 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde. The obtained compound was recrystallized from diethyl ether to give a colorless solid (m.p. 146.0-150.0° C.).

reactant | 2-aminonicotinic acid | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | methylamine | CN | CH5N
reactant | 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C16H21NO2
product | 2-[4-(1-Cyclobutyl-4-piperidinyloxy)phenyl]-3-methylpyrido[2,3-d]-pyrimidin-4(3H)-one | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C=1N(C(C2=C(N1)N=CC=C2)=O)C | C23H26N4O2
